* D:\ECE_Projects\SurvBot\Sim_Circuits\Pre_ADC_Filter\Draft1.asc
C1 in 0 470µ
L1 in O 3.9µ
C2 O 0 1µ
V1 in 0 6 AC 1
.ac dec 100 1 1meg
.backanno
.end
